US06045720
A solution of 90 g (0.4 mol) of pentanediol benzyl ethyl ether and 5.7 g of palladium hydroxide on carbon in 500 ml of ethanol was hydrogenated at under the pressure. After removing off the catalyst by filtration, the reaction mixture was concentrated. The oily residue was purified by distillation under the reduced pressure, to obtain pentanediol monoethyl ether. Boiling point; 55-58° C. (0.3 mmHg).

reactant | pentanediol benzyl ethyl ether | 0.4 mol, 90 g | C(C)OC(CCCC)OCC1=CC=CC=C1 | C14H22O2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 5.7 g | [OH-].[OH-].[Pd+2]
product | pentanediol monoethyl ether | C(C)OC(CCCC)O | C7H16O2
